US06048852
b) 3-Phenylpropylmalonic Acid
A mixture of diethyl 3-phenylpropylmalonate (5.5 g) and potassium hydroxide (2.8 g, 2.5 eq) in ethanol (20 ml) and water (30 ml) was refluxed for 5 hours. Work-up as described in Example 37b) gave the title compound (4.3 g, 98%); νmax (CH2Cl2) 2940 (br), 1727 and 1413cm-1 ; δH (CDCl3) 1.73 (2H, m, CH2), 2.00 (2H, m, CH2), 2.66 (2H, t, J 7.5 Hz, CH2), 3.44 (1H, t, J 6.8 Hz, CH), 6.84 (2H, bs, 2×CO2H), 7.26 (5H, m, Ph). EIMS M+ 222, DCIMS MNH4+ 240.

reactant | diethyl 3-phenylpropylmalonate | 5.5 g | C1(=CC=CC=C1)CCCC(C(=O)OCC)C(=O)OCC | C16H22O4
reactant | potassium hydroxide | 2.8 g, 2.5 eq | [OH-].[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | 3-Phenylpropylmalonic Acid | 4.3 g, 98% | C1(=CC=CC=C1)CCCC(C(=O)O)C(=O)O | C12H14O4
